US08563735B2
2-(4-chlorophenyl)-5-hydroxycyclohex-1-enecarbaldehyde
To a mixture of 4-chlorophenylboronic acid (6.88 g), EXAMPLE 224A (4.65 g), palladium(II) acetate (131 mg), K2CO3 (18.24 g) and tetrabutylammonium bromide (14.18 g) was added water (200 mL). The mixture was stirred at 50° C. for 4 hours, cooled, and diluted with ethyl acetate (400 mL) and washed with water (3×) and brine and dried over Na2SO4. After filtration and concentration, the residue was loaded on a column and eluted with 5-20% ethyl acetate in hexane to give the title compound.

reactant | 4-chlorophenylboronic acid | 6.88 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | K2CO3 | 18.24 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 200 mL | O | H2O
catalyst | tetrabutylammonium bromide | 14.18 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium(II) acetate | 131 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-(4-chlorophenyl)-5-hydroxycyclohex-1-enecarbaldehyde | ClC1=CC=C(C=C1)C1=C(CC(CC1)O)C=O | C13H13ClO2
